US05082974
Preparation of 3-chloro-3-(4-fluorophenyl)-2-(4-methylsulfonylphenyl)acrylaldehyde
A 54 g quantity (0.18 mole) of 1-(4-fluorophenyl)-2-(4-methylsulfonylphenyl)ethanone was suspended in a mixture of 500 ml of chloroform and 57 ml (0.74 mole) of N,N-dimethylformamide. To the suspension was added dropwise with stirring 60 ml (0.64 mole) of phosphorus oxychloride over a period of 30 minutes with cooling in an ice-saline solution bath. After the addition, the resulting mixture was further stirred at 20° C. for 2 hours and refluxed with heating for 18 hours. After being cooled to room temperature, the reaction mixture was poured into ice water and extracted with chloroform. The organic layer was washed sequentially with water and a saturated saline solution, dried over magnesium sulfate and concentrated. The resulting crystals were washed with a 1:2 mixture of diethyl ether and n-hexane, giving 54 g (86%) of the desired product in the form of a mixture of E- and Z-isomers as light brown solids.

reactant | 1-(4-fluorophenyl)-2-(4-methylsulfonylphenyl)ethanone | 0.18 mole | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C15H13FO3S
reactant | N,N-dimethylformamide | 0.74 mole, 57 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.64 mole, 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-3-(4-fluorophenyl)-2-(4-methylsulfonylphenyl)acrylaldehyde | 54 g, 86% | ClC(=C(C=O)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F | C16H12ClFO3S
